US07482345B2
methyl 3-(bromomethyl)-4-methoxybenzoate
To a solution of methyl 4-methoxy-3-methylbenzoate (10.0 g, 55.6 mmol) dissolved in CCl4 (500 mL) was added N-bromosuccinimide (10.8 g, 61.1 mmol) and benzoyl perioxide (1.30 g, 5.56 mol). The mixture was irradiated with a sunlamp (250 W) to create a gentle reflux. After 2 hours of exposure the reaction was complete by TLC. The reaction mixture was cooled, filtered through celite, and concentrated to yield a white solid.

reactant | methyl 4-methoxy-3-methylbenzoate | 55.6 mmol, 10.0 g | COC1=C(C=C(C(=O)OC)C=C1)C | C10H12O3
reactant | N-bromosuccinimide | 61.1 mmol, 10.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 500 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 3-(bromomethyl)-4-methoxybenzoate | BrCC=1C=C(C(=O)OC)C=CC1OC | C10H11BrO3
